US06693097B2
Further, 4-chloro-2-[3-(3,4-dimethoxyphenyl)propyl]-6-morpholinopyrimidine (0.34 g, 0.90 mmol) was reacted with hydrazine (0.29 g, 9 mmol) to obtain 2-[3-(3,4-dimethoxyphenyl)propyl]-4-hydrazino-6-morpholinopyrimidine as a white solid (0.30 g, 0.80 mmol, 89%).

reactant | 4-chloro-2-[3-(3,4-dimethoxyphenyl)propyl]-6-morpholinopyrimidine | 0.90 mmol, 0.34 g | ClC1=NC(=NC(=C1)N1CCOCC1)CCCC1=CC(=C(C=C1)OC)OC | C19H24ClN3O3
reactant | hydrazine | 9 mmol, 0.29 g | NN | H4N2
product | 2-[3-(3,4-dimethoxyphenyl)propyl]-4-hydrazino-6-morpholinopyrimidine | 0.80 mmol, 0.30 g, 89% | COC=1C=C(C=CC1OC)CCCC1=NC(=CC(=N1)NN)N1CCOCC1 | C19H27N5O3
